US08563686B2
Step IV: Synthesis of Boc-Ala-Ala-OH
To a solution of LiOH.H2O (275 mg, 6.56 mmol) in a mixture of solvents MeOH:H2O (10.9 mL:3.6 mL) was added Boc-Ala-Ala-OMe (1.2 g, 4.38 mmol) and stirred for 4 hours at r.t. The solution was acidified to pH 2 with saturated aqueous solution of citric acid and the mixture was extracted with EtOAc (3×20 mL). The organic layer was dried over Na2SO4 and concentrated under vacuum to give the desired product Boc-Ala-Ala-OH as a highly viscous and hygroscopic oil in quantitative yields (1.14 g). The product was taken for further reactions directly without any purification.

reactant | LiOH.H2O | 6.56 mmol, 275 mg | O[Li].O
reactant | MeOH | CO | CH4O
reactant | Boc-Ala-Ala-OMe | 4.38 mmol, 1.2 g | N([C@@H](C)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C12H22N2O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | H2O | 10.9 mL | O | H2O
product | Boc-Ala-Ala-OH | N([C@@H](C)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O5
